Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.98040261618
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],8.17668684724
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.8246938225400005
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.30373200593
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],1.00396594287
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.5481435839100001
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],0.0457317345899
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:5],1.94287363659
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:4],4.13812594203
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][O:6]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.259838989501
[H:10].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.5461897680900005
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.59538390977
[H:11].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.81426062831
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17].[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.299287616
[C:4](\[H:5])([O:6][H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.75670844394
[C:3]([H:4])([H:5])=[C:6]([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],-2.79848733354
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.78029315251
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([H:4])#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2],4.98621517062
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:9][H:10].[H:8],3.80803428842
[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.73583305505
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.94048093292
[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:10]([H:11])([H:12])[H:13],3.43767760166
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][H:13].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-1.9672315204400004
[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-4.8246938225400005
[H:1][C:2](=[C:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])[C:7][C:8]([H:9])([H:10])[H:11],0.58906529298
[H:1].[O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-3.70584319354
